US07820699B2
105.1 In analogy to example 101.1 ((E)-5-(tert-butyl-dimethyl-silanyloxy)-pent-2-enoic acid methyl ester (CAS 688801-64-1) and N-benzyl-N-(methoxymethyl)tri-methylsilylmethylamine (CAS 93102-05-7) were reacted to give (3RS,4RS)-1-benzyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-pyrrolidine-3-carboxylic acid methyl ester. Light yellow oil. MS 378.3 ([M+H]+)

reactant | (E)-5-(tert-butyl-dimethyl-silanyloxy)-pent-2-enoic acid methyl ester | COC(\C=C\CCO[Si](C)(C)C(C)(C)C)=O | C12H24O3Si
reactant | N-benzyl-N-(methoxymethyl)tri-methylsilylmethylamine | C(C1=CC=CC=C1)N(COC)C[Si](C)(C)C | C13H23NOSi
product | (3RS,4RS)-1-benzyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(CC1CCO[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C21H35NO3Si
